US04363651
15.5 parts of thionyl chloride are added to a suspension of 29 parts of N-(4'-fluorobenzoyl)-6-chloroanthranilic acid in 250 parts of 1,2-dichloroethane at room temperature, and the mixture is then stirred for one hour under reflux. Thereafter, it is evaporated down and the residue is taken up in methylene chloride; this solution is extracted once with water, and then with twice 100 parts by volume of 0.5 N sodium hydroxide solution. Thereafter, it is dried, chromatographed on neutral alumina and evaporated down, 22.5 parts of 2-(4'-fluorophenyl)-5-chloro-4H-3,1-benzoxazin-4-one, of melting point 159°-162° C., being isolated; yield: 82.7%.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-(4'-fluorobenzoyl)-6-chloroanthranilic acid | FC1=CC=C(C(=O)NC=2C(C(=O)O)=C(C=CC2)Cl)C=C1 | C14H9ClFNO3
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(4'-fluorophenyl)-5-chloro-4H-3,1-benzoxazin-4-one | yield: 82.7% | FC1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C(=CC=C2)Cl | C14H7ClFNO2
